US09120749B2
1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}ethanone
Following general procedure D, 1-{6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}ethanone (30 mg, 0.072 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (41 mg, 0.150 mmol) to afford the desired product (19.4 mg, 56%) as a yellow-brown solid: 1H NMR (500 MHz, CD3OD) δ 8.81 (s, 1H), 8.26 (d, J=1.8 Hz, 1H), 8.07-7.96 (m, 2H), 7.56-7.48 (m, 1H), 7.44 (dd, J=11.6, 2.2 Hz, 1H), 3.48 (d, J=12.6 Hz, 2H), 3.38-3.33 (m, 4H), 3.23-3.13 (m, 4H), 2.71 (s, 3H), 2.16-2.06 (m, 5H), 2.00 (d, J=11.1 Hz, 2H), 1.78-1.65 (m, 2H); ESI MS m/z 482 [C27H29ClN3O2+H]+; HPLC 98.9% (AUC), tR=10.36 min.

reactant | 1-{6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}ethanone | 0.072 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N1CCC(CC1)CN1CCCC1 | C21H26BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 41 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | 1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}ethanone | 19.4 mg, 56% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N1CCC(CC1)CN1CCCC1 | C27H29ClFN3O2
